US05554746
1-N-Hydroxy-3-(N-benzoyladenin-9-yl)-4-hydroxymethyl-2-azetidinone
1-N-Benzyloxy-3-(N-benzoyladenin-9-yl)-4-benzyloxymethyl-2-azetidinone (10 mmole) is taken up in methanol (50 ml) and hydrogenated using Raney nickel (5 g) and hydrogen at a pressure of 40 psi for 6 hours. The reaction mixture is filtered, the catalyst washed with methanol (20 ml) and the combined methanol fractions are concentrated to give the title compound as a solid.

reactant | 1-N-Benzyloxy-3-(N-benzoyladenin-9-yl)-4-benzyloxymethyl-2-azetidinone | 10 mmole | C(C1=CC=CC=C1)ON1C(C(C1COCC1=CC=CC=C1)N1C2=NC=NC(=C2N=C1)NC(C1=CC=CC=C1)=O)=O | C30H26N6O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 50 ml | CO | CH4O
catalyst | Raney nickel | 5 g | [Ni] | Ni
product | 1-N-Hydroxy-3-(N-benzoyladenin-9-yl)-4-hydroxymethyl-2-azetidinone | ON1C(C(C1CO)N1C2=NC=NC(=C2N=C1)NC(C1=CC=CC=C1)=O)=O | C16H14N6O4
